US04556717
1-[2-(2,4-Dichlorophenyl)-pentyl]-2-methoxycarbonylhydrazine
1.2 g of a platinum/charcoal catalyst (5% by weight of Pt) are added to a solution of 12.0 g (0.04 mol) of 1-[2-(2,4-dichlorophenyl)-pentylidene]-2-methoxycarbonylhydrazine in 80 ml of acetic acid, and the mixture is hydrogenated at 40° C. under a hydrogen pressure of 50 bar for 2 hours. Filtration of the reaction mixture and column-chromatography of the residue after evaporation yield 9.4 g (78% of theory) of the above product:

reactant | 1-[2-(2,4-dichlorophenyl)-pentylidene]-2-methoxycarbonylhydrazine | 0.04 mol, 12.0 g | ClC1=C(C=CC(=C1)Cl)C(C=NNC(=O)OC)CCC | C13H16Cl2N2O2
catalyst | platinum/charcoal | 1.2 g | [Pt] | Pt
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 1-[2-(2,4-Dichlorophenyl)-pentyl]-2-methoxycarbonylhydrazine | ClC1=C(C=CC(=C1)Cl)C(CNNC(=O)OC)CCC | C13H18Cl2N2O2
